US04593100
3a,4,7,7a-Tetrahydro-3,6,7a-Trimethyl-4-(2-Nitrophenyl)-Isoxazolo[5,4-b]Pyridine-5-Carboxylic Acid Ethyl Ester
A mixture of 5-acetyl-1,4-dihydro-2,6-dimethyl-4-(2-nitrophenyl)-3-pyridinecarboxylic acid (J. A. Berson and E. Brown, J. Amer. Chem. Soc., 77, 444 (1955), 2.34 g), hydroxylamine hydrochloride (0.71 g), pyridine (0.81 g), and ethanol (50 mL)) was heated under reflux on a steam bath for 4 hours, then evaporated on a rotary evaporator. The residue was dissolved in hot methanol, and the solution was filtered. The filtrate was concentrated on a rotary evaporator, and chilled in an ice-bath to cause a separation of a precipitate. The precipitate was collected on a filter, and recrystallized once more from methanol to give the titled product (0.1 g), mp 211.5°-212.5° C.

reactant | 5-acetyl-1,4-dihydro-2,6-dimethyl-4-(2-nitrophenyl)-3-pyridinecarboxylic acid | C(C)(=O)C=1C(C(=C(NC1C)C)C(=O)O)C1=C(C=CC=C1)[N+](=O)[O-] | C16H16N2O5
reactant | hydroxylamine hydrochloride | 0.71 g | Cl.NO
reactant | pyridine | 0.81 g | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 3a,4,7,7a-Tetrahydro-3,6,7a-Trimethyl-4-(2-Nitrophenyl)-Isoxazolo[5,4-b]Pyridine-5-Carboxylic Acid Ethyl Ester | 0.1 g | C(C)OC(=O)C=1C(C2C(NC1C)(ON=C2C)C)C2=C(C=CC=C2)[N+](=O)[O-] | C18H21N3O5
